US09056873B2
Step B: Ethyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolizine-7-carboxylate
A mixture of ethyl 2-bromoindolizine-7-carboxylate (100 mg, 0.373 mmol), bis(pinacolato)diboron (227 mg, 0.895 mmol), PdCl2(dppf) (13.65 mg, 0.019 mmol), and potassium acetate (110 mg, 1.12 mmol) in DMSO (3 mL) was heated to 80° C. in an oil bath overnight. The solution was extracted with diethyl ether (2×20 mL) and water (30 mL). The organic layers were combined, dried over magnesium sulfate, and concentrated to give the title compound, which was used without further purification (328 mg). ESI-MS m/z [M+H]+ calc'd for C17H22BNO4, 316. found, 316.

reactant | ethyl 2-bromoindolizine-7-carboxylate | 0.373 mmol, 100 mg | BrC=1C=C2C=C(C=CN2C1)C(=O)OCC | C11H10BrNO2
reactant | bis(pinacolato)diboron | 0.895 mmol, 227 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.12 mmol, 110 mg | C(C)(=O)[O-].[K+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
catalyst | PdCl2(dppf) | 0.019 mmol, 13.65 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolizine-7-carboxylate | CC1(OB(OC1(C)C)C=1C=C2C=C(C=CN2C1)C(=O)OCC)C | C17H22BNO4
